US07754747B2
Step 1: Methyl {[6-(2-benzyl-1,3-oxazol-5-yl)-2-naphthyl]oxy}acetate.
A mixture of 6-(2-benzyl-1,3-oxazol-5-yl)-2-naphthol (500 mg, 1.66 mmol), prepared in step 3 of Example 11, methyl bromoacetate (160 μL, 1.69 mmol) and cesium carbonate (1.08 g, 3.32 mmol) in 45 mL of acetone was stirred under nitrogen at room temperature for 16 h (overnight). The acetone was removed under reduced pressure and the residue partitioned between methylene chloride and water. The organic layer was separated and the aqueous layer extracted two times with methylene chloride. The combined extracts were dried (MgSO4), filtered and the solvent removed under reduced pressure to produce 628 mg of a white solid. Purification of the solid on a Biotage KP-SIL 60 Å 25+M 40 g column using methylene chloride-ethyl acetate as the eluent gave methyl {[6-(2-benzyl-1,3-oxazol-5-yl)-2-naphthyl]oxy} acetate (454 mg, 73%) as a white solid, mp 140-142° C. Elemental Analysis for C23H19NO4 Calc'd: C, 73.98; H, 5.13; N, 3.75. Found: C, 73.49; H, 4.96; N, 3.45.

reactant | 6-(2-benzyl-1,3-oxazol-5-yl)-2-naphthol | 1.66 mmol, 500 mg | C(C1=CC=CC=C1)C=1OC(=CN1)C=1C=C2C=CC(=CC2=CC1)O | C20H15NO2
reactant | methyl bromoacetate | 1.69 mmol, 160 μL | BrCC(=O)OC | C3H5BrO2
reactant | cesium carbonate | 3.32 mmol, 1.08 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetone | 45 mL | CC(=O)C | C3H6O
product | Methyl {[6-(2-benzyl-1,3-oxazol-5-yl)-2-naphthyl]oxy}acetate | 628 mg | C(C1=CC=CC=C1)C=1OC(=CN1)C=1C=C2C=CC(=CC2=CC1)OCC(=O)OC | C23H19NO4
